US05939439
Step 1: 5-Bromo-pyrazine-2-carboxylic acid methyl ester
A solution of 5-hydroxy-pyrazine-2-carboxylic acid methyl ester (2.56 g, 16.61 mmol) in phosphorous oxybromide 9.9 g, 34.9 mmol) were heated at 90° C. for 70 mins. The reaction was allowed to cool and the resulting solid carefully dissolved in methanol and then the solvent was evaporated in vacuo. The residue was partitioned between EtOAc and sat. NaHCO3 and the organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed (silica gel, EtOAc:Hexanes 40:60) to afford the title compound.

reactant | 5-hydroxy-pyrazine-2-carboxylic acid methyl ester | 16.61 mmol, 2.56 g | COC(=O)C1=NC=C(N=C1)O | C6H6N2O3
reactant | phosphorous oxybromide | 34.9 mmol, 9.9 g | P(=O)(Br)(Br)Br | Br3OP
solvent | methanol | CO | CH4O
product | 5-Bromo-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)Br | C6H5BrN2O2
